* 
* Linear Technology LT1202 op amp model  
* Written: 01-14-1993 11:05:54 Type: Bipolar NPN input, internal comp.
* Modified by G.F. to add Cload compensation network and freq. shaping
* Typical specs: 
* Vos=5.0E-04, Ib=5.0E-07, Ios=5.0E-08, GBP=1.1E+07Hz, Phase mar.= 45 deg, 
* SR(-)=5.0E+01V/us, SR(+)=5.0E+01V/us, Av= 76.0dB, CMRR=100.0dB, 
* Vsat(+)=1.000V, Vsat(-)=1.300V, Isc=+20/-20mA, Rout=  95ohms, Iq=1.00mA.
* 
* Connections: + - V+V-O 
.SUBCKT LT1202 3 2 7 4 6 
* INPUT
RC1 7  80 4.5214E+03
RC2 7  90 4.5214E+03
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  2.0000E-12
C1  80 90 2.35E-12
*INPUT POLE AT 75MHZ
RE1 10 12 +4.1723E+03
RE2 11 12 +4.1723E+03
IEE 12 4  1.6100E-04
RE  12 0  1.2422E+06
* INTERMEDIATE 
*MODS: GA DEPENDENCE INVERTED (POLARITY SWAPPED)
*      R2 INCREASED TO 31.6MOHM (ALL GAIN IN ONE STAGE)
*      C2 TIED TO GROUND (WAS NODE 1), REDUCED TO 2.76PF FROM 3.2PF
*      GB POLARITY REVERSED GB=1/RO2 FOR GAIN OF 1
*      RF, CF ADDED FOR CLOAD NETWORK (REDUCES VALUE OF C2)
*      REVERSE POLARITY OF GN1,GP1,GC1,GCM FOR LIMITING BECAUSE OF GA REVERSAL
*      ADD MULTIPLE POLES AND A ZERO BETWEEN GA STAGE AND GB STAGE     
GCM 8  0  12 0  2.2117E-09
GA  8  0  90 80 2.2117E-04
R2  8  0  31.6E+06
C2  8  0  2.67E-12
*POLE AT 75MHZ
GX1 0  28  8  0  1E-06
RX1 28 0   1E+06
CX1 28 0   2.12E-15
*POLE AT 150MHZ
GX2 0  38  28 0  1E-06
RX2 38 0   1E+06
CX2 38 0   1.06E-15
*POLE AT 150MHZ
GX3 0  48  38 0  1E-06
RX3 48 0   1E+06
CX3 48 0   1.06E-15
*ZERO AT 13MHZ
GX4 0  58  48 0  1E-06
RX4 58 59  1E+06
LX4 59 0   12.2E-03
*POLE AT 200MHZ
GX5 0  68  58 0  1E-06
RX5 68 0   1E+06
CX5 68 0   .796E-15
*POLE AT 750MHZ
GX6 0  78  68 0  1E-06
RX6 78 0   1E+06
CX6 78 0   .212E-15
*
GB  0  1  78 0 10.5E-03
RO2 1  0  9.5000E+01
RF  8  99 12E+03
CF  99 6  2.5E-12
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  4.5269E+01
GCL 8  0  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 0.0000E+00
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 8  0  70 7  1.0000E+00
VC  13 6  2.4313E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 8  0  60 4  1.0000E+00
VE  6  14 2.7313E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  8.3900E-04
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=1.5238E+02)
.MODEL QM2 NPN (IS=8.1562E-16 BF=1.6842E+02)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=4.3200E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1202
* 
* - - - - - * FINI LT1202 * - - - - - * [OAMM VN02 10/29/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1993
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
